US09102614B2
Step 2: Preparation of 4-(4-chlorophenyl)-7-methoxy-2-methyl-1,2-dihydronaphthalene:
6-methoxy-3-methyl-3,4-dihydronaphthalen-1-yl trifluoromethanesulfonate (9.88 g, 30.7 mmol), 4-chlorophenylboronic acid (6.23 g, 39.9 mmol) and K2CO3 (12.7 g, 91.9 mmol) were combined in a mixture of toluene/ethanol/water (80 mL/40 mL/40 mL) at room temperature in a heavy walled pressure flask. Following sparging of the mixture with Ar for 30 minutes, PdCl2(dppf) (1.12 g, 1.53 mmol) was added in one portion and the flask was sealed and heated to 50° C. for 2.5 h. After returning to room temperature, the layers were separated and the aqueous layer was extracted with EtOAc and Hex (2×50 mL each). The combined organics were washed with brine, filtered through a pad of Celite, and dried over anhydrous MgSO4. The resulting solution was absorbed on silica gel in vacuo and purified via Yamazen column chromatography (0-15% EtOAc/Hex) to provide 7.7 g (88%) of the title compound as an amorphous white solid. 1H-NMR: 400 MHz, (CDCl3) δ: 7.32 (d, J=8 Hz, 2H); 7.26 (d, J=8 Hz, 2H); 6.87 (d, J=8.4 Hz, 1H); 6.57 (d, J=2.8 Hz, 1H); 6.62 (dd, J=8.4, 2.8 Hz, 1H); 5.74 (d, J=2.8 Hz, 1H); 3.79 (s, 3H); 2.81 (ABq, J=20.8, 12.4 Hz, 1H); 2.60 (m, 1H); 2.59 (ABq, J=8.4, 2.8 Hz, 1H); 1.14 (d, J=6.4 Hz, 3H).

reactant | 6-methoxy-3-methyl-3,4-dihydronaphthalen-1-yl trifluoromethanesulfonate | 30.7 mmol, 9.88 g | FC(S(=O)(=O)OC1=CC(CC2=CC(=CC=C12)OC)C)(F)F | C13H13F3O4S
reactant | 4-chlorophenylboronic acid | 39.9 mmol, 6.23 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 91.9 mmol, 12.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene ethanol water | 80 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | PdCl2(dppf) | 1.53 mmol, 1.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-chlorophenyl)-7-methoxy-2-methyl-1,2-dihydronaphthalene | 7.7 g, 88% | ClC1=CC=C(C=C1)C1=CC(CC2=CC(=CC=C12)OC)C | C18H17ClO
